Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
increasing seizures and psychosis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The pt is a ___ year-old right-handed man who presents for 
admission from epilepsy clinic due to increasing seizure 
frequency and concerns for safety at home due to increased 
psychosis and rage. 

Mr. ___ seizure history started with generalized seizures 
that started at age ___, ___ events in one day. He was brought 
to ___ who started him on phenobarb and 
transferred him to ___ ICU. There they found phenobarb was not 
effective. Carbamazapine was tried, but as the patient became 
somnolent, it
was stopped. He then was placed on depakote. This controlled his 
seizures relatively well from ages ___. During this time he 
had breakthrough seizures, approximately 2 staring spells per 
month and 2 generalized tonic/clonic or atonic per year. At some 
point he was trialed on phenytoin, but this was discontinued, 
his parents are unclear why. He had some thrombocytopenia on the
depakote, but not enough to discontinue. He followed at ___ with 
Dr. ___. During this time he was found to have 5 distinct 
semiologies: 
1. GTC
2. atonic/drop
3. staring/blinking, sometimes progressing to tantrums
4. sudden snore while sleeping 
5. staring, yelling, behavioral changes. 

At age ___ or ___, Mr. ___ decided to stop the depakote. He then 
would have episodes of waking up confused in the mornings. He 
had a GTC about a year ago (his most recent), which prompted him 
to see Dr. ___ on the ___. He was started on 
Keppra, but this was discontinued due to mood lability. He then 
was restarted on Depakote, currently sprinkles, 625mg BID. He 
tried "adult Depakote" but stopped after only a few days due to 
somnolence. 

Since the ___, he was under severe stress due to the 
deaths of multiple friends. He started having mood and GI 
symptoms. His GI evaluation revealed a volvulus, which was 
treated, although he continues to have GI symptoms. He started 
having episodes that his parents are concerned is "empty"
laughter, often preceeded by slight left face twitching, and 
followed by screaming rage. He often has solitary twiches of 
either cheek or both (in a grin) and/or stares off into space 
for a few seconds. He also sometimes wakes with rage episodes 
lasting about 10 minutes, followed by lethargy. These rage 
attacks have led to physical damage throughout his living space 
(at his parent's house), as well as his parents feeling unsafe.

During this time, he has had increasing paranoid delusions, as 
well as both auditory command and visual hallucinations. He 
denies racing thoughts. He reports that it's hard to concentrate 
due to the voices. He has had both SI and HI per his mother, 
although he denies both currently. In regard to his mood, he
feels that it has been down "at times" in the last few months. 
Per his mom, he is also becoming increasingly withdrawn from 
friends. He speaks with a counselor and is in the process of 
seeking psychiatric care, but this has not yet been established.

Parents report he had an EEG a few months ago and a brain MRI on 
the ___ 1 month ago, which was unremarkable. These records are 
not available for review. 

The patient reports that he sleeps poorly in general, often only 
a few hours. Sometimes uses ativan to help sleep. He had 1 
episode of vomiting a few days ago and possibily some diarrhea. 
He has likely missed a few doses of Depakote this week due to 
increased GI pain and "stiffness" as he feels that the Depakote
makes it worse. His mother typically gives him each medication 
dose, as he does not like taking medicines in general. She is 
not sure how much he took this week. No recent head trauma. 

On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia. Denies difficulties producing or comprehending 
speech.  Denies focal weakness, numbness, parasthesiae. No bowel 
or bladder incontinence or retention. Denies difficulty with 
gait.

On general review of systems, the pt's mom thinks that he's lost 
a few pounds in the last few months. He has chronic stomach 
pain. He denies recent fever or chills.  Denies cough, shortness 
of breath.  Denies chest pain or tightness, palpitations.  
Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
-birth hx - born at term with nuchal cord, thought to have 
hypoxia from this. Normal motor/language milestones, but in 
Kindergarten noticed to have learning disabilities. 
-seizure d/o as per above
-hx of chronic GI pain, volvulus s/p surgery
 
Social History:
___
Family History:
No seizures in 4 older siblings or daughter. No significant 
psych history other than likely PTSD in maternal grandfather
 
Physical ___ Physical Exam:
Vitals: T: 98.5  P: 88 BP: 122/81  RR: 20 SaO2: 99% RA
General: Awake, intermittently cooperative, other times looks 
away and closes his eyes, NAD. 
HEENT: NC/AT, no scleral icterus, MMM, clear oropharynx
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G
Abdomen: soft, NT/ND, normoactive bowel sounds
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions
Psych: mood congruent, no apprent hallucinations

Neurologic:
-Mental Status: Alert, oriented x 3. Mildly inattentive, able to 
name ___ backwards until ___, until he stops and refuses 
to continue. Answers most questions in short phrases, does not 
achieve fluency. Does not appear interested in participating in 
interview or exam, although mostly cooperative. Mother relays 
history, patient adds few details, sometimes looks on with
contempt during certain topics such as medications, maijuana. 
Intact repetition, comprehension, naming. Normal prosody.  There 
were no paraphasic errors. Pt Speech was not dysarthric. Able to 
follow both midline and appendicular commands, difficulty with 
complex or multi-step. Initial right-left confusion, but 
corrects with prompting. There was no evidence of apraxia or 
neglect.

Occasionally during the interview and exam he would have a 
solitary twitch of either cheek. When he was turned away from 
the examiner he would have ___ second sardonic grins that seemed 
out of context. In the midst of the exam he had a few pauses, 
often staring straight head, sometimes with a few blinks, but 
after ___ seconds was able to complete the command and continue 
the task
without repetition of instruction. 

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 3mm and brisk.  VFF to confrontation. 
III, IV, VI: EOMI without nystagmus.  Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift. No 
adventitious movements. No asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

-Sensory: No deficits to light touch, cold sensation throughout.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response was flexor bilaterally.

-Coordination: No dysmetria on FNF or HKS bilaterally. UE RAMs 
symmetric.

-Gait: deferred

DISCHARGE EXAMINATION: unchanged
 
Pertinent Results:
ADMISSION LABS:
___ 06:00PM BLOOD WBC-6.6 RBC-5.14 Hgb-16.7 Hct-48.8 MCV-95 
MCH-32.5* MCHC-34.1 RDW-13.2 Plt ___
___ 06:00PM BLOOD Neuts-58.7 ___ Monos-6.6 Eos-0.4 
Baso-1.8
___ 06:00PM BLOOD Glucose-95 UreaN-11 Creat-0.8 Na-141 
K-4.0 Cl-101 HCO3-25 AnGap-19
___ 06:00PM BLOOD ALT-30 AST-30 AlkPhos-50 TotBili-0.6
___ 06:55AM BLOOD Calcium-10.2 Phos-4.4 Mg-2.0
___ 06:00PM BLOOD Albumin-5.4*
___ 06:00PM BLOOD Valproa-105*
___ 06:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

DISCHARGE LABS:
___ 04:20AM BLOOD WBC-5.2 RBC-5.00 Hgb-15.5 Hct-47.3 MCV-95 
MCH-31.0 MCHC-32.7 RDW-12.8 Plt ___
___ 04:20AM BLOOD Glucose-85 UreaN-24* Creat-0.8 Na-143 
K-4.3 Cl-103 HCO3-26 AnGap-18
___ 04:20AM BLOOD Valproa-75

URINE: 
___ 06:10PM URINE Color-Yellow Appear-Clear Sp ___
___ 06:10PM URINE Blood-NEG Nitrite-NEG Protein-100 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-2* pH-7.0 Leuks-NEG
___ 06:10PM URINE RBC-5* WBC-3 Bacteri-NONE Yeast-NONE 
Epi-0
___ 03:45PM URINE Porphobilinogen-pending at discharge

=======================================

IMAGING: 
Abdominal Ultrasound: unremarkable

EEG: Representative excerpts from reports from ___:

"This is an abnormal video-EEG monitoring session because of
multiple pushbutton activations for the patient's typical 
events. Recorded
events include: Facial grimacing, left face twitching, brief 
unresponsiveness with staring or repetitive blinking, 
inappropriate speech directed toward "voices" in his room, and 
empty laughter. None of these episodes have an ictal EEG 
correlate. Background EEG activity is normal. There are no 
epileptiform discharges or electrographic seizures. None of the 
patient's larger episodes of agitation or destructive behavior 
are recorded during this session."

"One of the patient's typical event of awakening in the middle 
the
night with yelling is captured during a pushbutton activation 
and this has no electrographic correlate."

"This is a normal video-EEG monitoring session. Background 
activity is normal. There are no epileptiform discharges or 
electrographic
seizures. There is a single pushbutton activation for awakening 
and body jerks which has no electrographic correlate. Compared 
to the previous day's
recording, there is no significant change."

=======================================

 
Brief Hospital Course:
The patient is a ___ year-old right-handed man with a history of 
epilepsy since childhood, marijuana dependence, mood disorder, 
and learning delay who was referred for admission directly from 
epilepsy clinic given increasing frequency of new spells 
(nighttime rage/agression, blinking, empty smiles and laughter, 
crying spells, and staring off).  

# NEURO:  
He was admitted for cv EEG which showed a normal EEG during 
sleep and waking hours.  There was no eeg correlates for the new 
spells captured (listed above).  He was maintained on his home 
dose of Valproate.  Trough VPA level on discharge was 73.  
(Please note that although admission VPA level was 103, this may 
have been after a dose in the ED. Per mom, compliance at home 
was difficult for the patient.)    

# PSYCH:  
On multiple occasions, he endorsed hearing voices that were 
instructing him to act in different ways.  Sometimes the voice 
would be of a demon.  At night, he would awaken screaming, and 
agitated.  He was frequently anxious and fixated on his abdomen 
as the source of the problem despite our reassurance.  His 
mother pointed out multiple fixed delusions such as his 
apartment being the cause of the outbursts and putting thoughts 
in his head.  His affect was flat and at times inappropriately 
jovial with odd smiling and laughing.  The night of ___, he 
endorsed suicidal and homicidal ideation, but did not act on 
this.  A 1:1 sitter with suicide precautions was made available 
as psychiatry was urgently consulted.  With the psychiatrist, he 
retracted his suicidal/homicidal plans and he psychiatry did not 
feel he required sectioning.  Information was obtained from the 
patient's outpatient counselor and ultimately the differential 
was felt to be most likely marijuana-induced psychosis or 
primary psychotic disorder. The recommendations from psych 
included: voluntary inpatient hospitalization to help with 
diagnostic clarification, psychopharmacologic intervention, and 
aftercare planning.  The patient declined inpatient 
hospitalization and opted to pursue outpatient psychopharmaco 
therapy (an appointment was set up this week).  He remained on 
Depakote and was given a limited script for ativan to control 
anxiety and episodes of agitation until that appointment.  His 
mother was interested in him starting a new medication (she 
mentioned olanzapine had worked well as a prn that was given in 
the hospital course), but this was ultimately deferred until his 
psychopharm appt this week.  See transitional issues for the 
number of his counselor.

#GI:  The patient was quite perseverative on his abdomen being 
the source of his cognitive problems.  Despite a benign 
abdominal exam, normal CBC, and prior extensive work-up, he 
demanded we look into a GI issue.  Abdominal ultrasound was done 
and this was normal.  Urine porphobilinogen was sent given 
porphyria could be included on the differential (constellation 
of abdominal pain, seizures and psychosis). This was pending on 
discharge

# TRANSITIONAL ISSUES: 
1) pending labs: urine porphobilinogen
2) He did benefit from olanzapine 5mg during times of 
agression/agitation.  Could consider this as a standing med.
3) (Therapist: ___ @ ___: 
(p) ___, (f) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Divalproex Sod. Sprinkles 625 mg PO BID 
2. Lorazepam 0.5 mg PO Q8H:PRN anxiety 

 
Discharge Medications:
1. Divalproex Sod. Sprinkles 625 mg PO BID 
2. Lorazepam 1 mg PO Q8H:PRN anxiety 
RX *lorazepam 1 mg 1 tablet by mouth every 8 hours as needed 
Disp #*10 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- seizure disorder
- psychosis NOS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ given concern for seizures.  While 
you were here you were monitored on EEG and we found that your 
spells of blinking, smiling, and agitation did not represent 
seizures.  At the same time, we do know that you have a seizure 
disorder and it is very important that you continue to take your 
medication (Depakote) every day.  

We were also quite concerned that you may need additional 
psychiatric support.  You were evaluated by our psychiatrists 
who recommended further inpatient evaluation, but you opted to 
pursue further outpatient psychopharmacology intervention.  
Please keep your appointment for this on ___.  Please also 
continue to see your counselor daily.  

If you or your family has concerns about your safety or the 
safety of your family, please return to the hospital urgently.  
 
Followup Instructions:
___